US04003927
3,4-Dichloro-5-hydroxybenzoic acid
3,4-Dichloro-5-methoxyphthalic acid (17.5 g., 0.066 mole) is mixed with pyridine hydrochloride (120 g.). The mixture is heated at 180° C. for one hour and then poured into water (1 l.). The solid that separates melts at 211°-212..5° C. and is used without purification in the next step.

reactant | 3,4-Dichloro-5-methoxyphthalic acid | 0.066 mole, 17.5 g | ClC1=C(C(C(=O)O)=CC(=C1Cl)OC)C(=O)O | C9H6Cl2O5
reactant | pyridine hydrochloride | 120 g | Cl.N1=CC=CC=C1
solvent | water | 1 l | O | H2O
product | 3,4-Dichloro-5-hydroxybenzoic acid | ClC=1C=C(C(=O)O)C=C(C1Cl)O | C7H4Cl2O3
